US05356930
To a mixture of 200 g (0.667 mol) of 2-[2-chloro-4-(3,5-difluorophenoxy)phenoxy]ethylamine, 81 g (0.80 mol) of triethylamine and 8 liter of toluene, there was added dropwise a solution of 70 g (0.67 mol) of cyclopropane carbonylchloride in 2 liter of toluene with stirring at a temperature of from 5° C. to 10° C. After 2 hours, the reaction mixture was stirred at a room temperature for 15 hours. After the reaction was completed, the resultant mixture was washed twice with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 163 g of N-{2-[2-chloro-4-(3,5-difluorophenoxy)phenoxy]ethyl}-cyclopropane carboxyamide as a white crystal (m.p. 89°-90° C.).

reactant | 2-[2-chloro-4-(3,5-difluorophenoxy)phenoxy]ethylamine | 0.667 mol, 200 g | ClC1=C(OCCN)C=CC(=C1)OC1=CC(=CC(=C1)F)F | C14H12ClF2NO2
reactant | triethylamine | 0.80 mol, 81 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropane carbonylchloride | 0.67 mol, 70 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | toluene | 2 liter | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 8 liter | C1(=CC=CC=C1)C | C7H8
product | N-{2-[2-chloro-4-(3,5-difluorophenoxy)phenoxy]ethyl}-cyclopropane carboxyamide | 163 g | ClC1=C(OCCNC(=O)CC2CC2)C=CC(=C1)OC1=CC(=CC(=C1)F)F | C19H18ClF2NO3
